US08258130B2
LiAlH4 in THF (1 M, 6.58 mL) is added to a solution of 6-fluoro-4-nitroso-3,4-dihydro-2H-benzo[1,4]oxazine (0.8 g) in THF (10 mL) at 00 C. and then stirred at rt overnight. The reaction mixture is quenched with a few drops of water followed by addition of EtOAc (10 mL). The solid is filtered off and washed with EtOAc (15 mL). The filtrate is concentrated in vacuo and the residue is purified by silica gel column chromatography eluting with 15% EtOAc in heptane to afford 6-fluoro-2,3-dihydro-benzo[1,4]oxazin-4-ylamine (0.44 mg).

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6-fluoro-4-nitroso-3,4-dihydro-2H-benzo[1,4]oxazine | 0.8 g | FC=1C=CC2=C(N(CCO2)N=O)C1 | C8H7FN2O2
solvent | THF | 1 M, 6.58 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-fluoro-2,3-dihydro-benzo[1,4]oxazin-4-ylamine | 0.44 mg | FC=1C=CC2=C(N(CCO2)N)C1 | C8H9FN2O
